US04242510
Dry N,N-dimethylformamide (1.26 ml.), phosphoryl chloride (1.48 ml.), 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetic acid (syn isomer, 3.48 g.) and dry ethyl acetate (5 ml.) were treated in a conventional manner to give an activated acid solution. On the other hand, a solution of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (5.0 g.) trimethylsilylacetamide (12.6 g.) and bis(trimethylsilyl)acetamide (8.3 g.) in ethyl acetate (700 ml.) was stirred at 40° C. for an hour. The activated acid solution was added all at once to the solution at -30° C. and stirred at -10° to -30° C. for 2 hours. After adding water (50 ml.) to the resultant solution, the ethyl acetate layer was separated. The solution was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo. The residue was pulverized with diisopropyl ether, and the precipitates were collected by filtration and washed with diisopropyl ether to give 4-nitrobenzyl 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 6.80 g.).

reactant | phosphoryl chloride | 1.48 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetic acid | 3.48 g | O1CCSC=C1C(C(=O)O)=NOCCC | C9H13NO4S
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 5.0 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | trimethylsilylacetamide | 12.6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 8.3 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 1.26 ml | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-cephem-4-carboxylate | 6.80 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCCC | C23H24N4O8S2
